US06514965B1
3(R,S)-tert-Butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one
A suspension of 3(R,S)-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one (3.645 g, 12.51 mmol), ethyl iodide (2.01 mL, 25.02 mmol) and Cs2CO3 (8.153 g, 25.02 mmol) in acetonitrile (35 mL) was stirred at room temperature for 6 hrs. The reaction mixture was evaporated to dryness, the residue dissolved in water and extracted with DCM. The organic layer was washed with water, dried over Na2SO4, filtered and evaporated to dryness. The solid residue was washed with n-hexane and dried in vacuum. The desired compound (3.50 g, 88%) was obtained as white crystalline powder.

reactant | 3(R,S)-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 12.51 mmol, 3.645 g | C(C)(C)(C)OC(=O)C1C(NC2=C(CC1)C=CC(=C2)OC)=O | C16H21NO4
reactant | ethyl iodide | 25.02 mmol, 2.01 mL | C(C)I | C2H5I
reactant | Cs2CO3 | 25.02 mmol, 8.153 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 3(R,S)-tert-Butoxycarbonyl-1-ethyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 3.50 g, 88% | C(C)(C)(C)OC(=O)C1C(N(C2=C(CC1)C=CC(=C2)OC)CC)=O | C18H25NO4
